US05614544
Ethyl 4-[2-(5-methyl-4-phenyl-2-thiazolyl)ethyl]cinnamate was reduced with diisobutylaluminum hydride in the same manner as in Reference Example 22 to yield (E)-3-[4-[2-(5-methyl-4-phenyl-2thiazolyl)ethyl]phenyl]-2-propenol, which was then recrystallized from hexane to yield colorless plates having a melting point of 93°-94° C.

reactant | Ethyl 4-[2-(5-methyl-4-phenyl-2-thiazolyl)ethyl]cinnamate | CC1=C(N=C(S1)CCC1=CC=C(C=CC(=O)OCC)C=C1)C1=CC=CC=C1 | C23H23NO2S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-[4-[2-(5-methyl-4-phenyl-2thiazolyl)ethyl]phenyl]-2-propenol | CC1=C(N=C(S1)CCC1=CC=C(C=C1)/C=C/CO)C1=CC=CC=C1 | C21H21NOS
